Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Pancreatic mass, weakness and jaundice
 
Major Surgical or Invasive Procedure:
ERCP and EUS with brushings, sphincterotomy, metal stent 
placement, and pancreas biopsy on ___

 
History of Present Illness:
Mr. ___ is an ___ year old ___ male with a PMH of
hypertension (though not followed by a PCP), who presents as a
transfer from ___ with weakness and jaundice. 

History is taken largely from family member at bedside and with
his assistance for interpretation. Phone interpreter offered and
declined.  Patient reports that he was vacationing in ___ 
for
the past 3 months.  Around 10 days prior to admission, he
suddenly started to feel very itchy all over.  He also noted
increased weakness, feeling tired when walking short distances. 
This was associated with poor appetite, which he reports is
feeling full after even small amounts of food.  He reports no
nausea or vomiting.  He does report significant weight loss,
which he approximates at 30 pounds in a few days.  He went to a
hospital in ___, where imaging and a biopsy was done.  The
patient and family member report that their understanding of the
findings is that the patient has a tumor in his pancreas, which
has been there a long time, and is not expected to grow.  Their
understanding is that this was not a cancer.  The reports from
this hospitalization are in ___.  According to the emergency
room doctor's report from ___ (he reports he
understands some ___ the biopsy was significant for 
suspected
adenocarcinoma.

Patient returned to the ___ for further care and was
seen at ___ today. On review of ___ ED
records, a CT scan was performed of the abdomen and pelvis and
this showed: pancreatic head mass 2.3 cm, concerning for
adenocarcinoma and biliary obstruction.

Patient otherwise has no complaints of nausea, vomiting, fever,
chills, chest pain, shortness of breath, or abdominal pain.

According to patient's family member, the patient does not have
an active primary care physician.  They state that he has seen
several doctors over the years, but none consistently.  they 
have
believe he is on a baby aspirin daily.  They also believe that 
he
is being treated for hypertension.  They state that he takes
brand-name medications from ___ which are not available in 
the
___.  They are not able to name these, but the family plans 
to
bring them in the morning.

In the ED:

Initial vital signs were notable for: T 97.2, HR 57, BP 173/58,
RR 16, 98% RA

Exam notable for: -Diffuse jaundice, Abdomen benign; no right
upper quadrant pain

Labs were notable for:

- CBC: WBC 6.2, hgb 12.0, plt 146

- Lytes:

142 / 108 / 13     AGap=11 
-------------- 153 
3.4 \ 23 \ 0.7 

- LFTs: AST: 55  ALT: 92 AP: 407 Tbili: 9.1 Alb: 3.4 
- lipase 15

Upon arrival to the floor, patient recounts history as above.  
He
otherwise has no complaints currently, except that he would like
to sleep.

 
Past Medical History:
- hypertension 
- s/p cholecystectomy (per CT a/p)
- s/p appendectomy (per CT a/p)
- Hyperlipidemia
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.

 
Physical Exam:
Admission physical exam
=======================
VITALS: T 98.2, HR 56, BP 172/65, RR 18, 99 RA 
GENERAL: Sleeping soundly, awakens to voice easily, NAD
EYES: Icteric sclera, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Jaundiced. No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge physical exam:
=========================
24 HR Data (last updated ___ @ 1144)
Temp: 97.3 (Tm 97.7), BP: 171/59 (133-185/59-67), HR: 60 
(57-60),
RR: 18 (___), O2 sat: 99% (99-100), O2 delivery: RA, Wt: 128
lb/58.06 kg   
GENERAL: Alert and in no apparent distress
EYES: Icteric sclera 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, II/VI SEM with preserved S2, no S3, no S4.  
No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Jaundiced
NEURO: Alert, oriented x 3, face symmetric, gaze conjugate with
EOMI, speech fluent, moves all limbs, sensation to light touch
grossly intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission labs
==============
___ 07:30PM BLOOD WBC-6.2 RBC-3.98* Hgb-12.0* Hct-36.1* 
MCV-91 MCH-30.2 MCHC-33.2 RDW-15.8* RDWSD-52.3* Plt ___
___ 07:30PM BLOOD ___ PTT-27.7 ___
___ 07:30PM BLOOD Glucose-153* UreaN-13 Creat-0.7 Na-142 
K-3.4* Cl-108 HCO3-23 AnGap-11
___ 07:30PM BLOOD ALT-92* AST-55* LD(LDH)-165 AlkPhos-407* 
TotBili-9.1* DirBili-6.8* IndBili-2.3
___ 07:30PM BLOOD Albumin-3.4*
___ 07:30PM BLOOD Hapto-50

DISCHARGE LABS:
===============
___ 05:45AM BLOOD WBC-6.5 RBC-3.87* Hgb-11.9* Hct-34.7* 
MCV-90 MCH-30.7 MCHC-34.3 RDW-16.4* RDWSD-53.5* Plt ___
___ 05:45AM BLOOD ___
___ 05:45AM BLOOD Glucose-127* UreaN-12 Creat-0.7 Na-142 
K-4.0 Cl-104 HCO3-23 AnGap-15
___ 05:45AM BLOOD ALT-68* AST-50* AlkPhos-350* TotBili-8.6*
___ 05:45AM BLOOD Calcium-8.7 Phos-2.7 Mg-1.5*
___ 07:33AM BLOOD %HbA1c-9.4* eAG-223*
___ 07:33AM BLOOD CEA-5.7*
WBC 6.5, Hgb 11.9 (from 11.8), Plt 144 (from 155)
INR 1.2
BMP WNL
Tbili 10.2 -> 8.6, Alk phos 363 -> 350, AST/ALT 50/68
Mg 1.5
CEA 5.7
CA ___: pending
A1c 9.4%

Prior:
Retic 2.1
Hapto 52

Pancreas path (___): pending
CBD brushings (___): pending

IMAGING:
========
CT chest w/cont (___): 
1. Evaluation of the lung parenchyma slightly suboptimal
secondary to respiratory motion artifact.  Within this
limitation, pulmonary nodules in the right middle and left lower
lobes are seen measuring up to 4 mm.  Attention on follow-up
imaging is recommended. 
2. Otherwise, no evidence of intrathoracic metastatic disease. 
3. Please refer to separately reported CT abdomen pelvis for
description of the subdiaphragmatic findings. 

CT pancreas protocol (___): pending

EUS (___):
Mass measuring 3 cm noted in head of pancreas. Borders of mass
irregular. FNB of pancreatic mass performed.

ERCP (___):
2 cm long stricture in distal CBD, with proximal dilation to
14mm. Sphincterotomy performed. Brushings taken of biliary
stricture. ___, 6cm straight metal covered stent placed. 

___ CT A/P with contrast (SSH):
Lung bases: There are dependent related changes at the posterior
lung bases. Hepatobiliary: Liver: No focal lesion.
Moderate intra-and extrahepatic biliary dilatation.  There is
abrupt narrowing of the common bile duct and the pancreatic 
head.
Gallbladder: Cholecystectomy. Spleen: Normal
Pancreas: There is moderate pancreatic duct dilatation.  There 
is
abrupt narrowing of the pancreatic duct and pancreatic head. 
There is ill-defined hypoenhancement of the pancreatic head most
compatible with an underlying mass; the presumed mass measures 
up
to approximately 2.3 cm; contacts less than 180 degrees of the
SMV.  There is moderate atrophy of the pancreatic body and tail.
Genitourinary: Kidneys: Normal. Adrenals: Normal. Peritoneum and
retroperitoneum: Aorta: Normal caliber.
Retroperitoneal adenopathy: None
Ascites: None.  Mild mesenteric edema.  No discrete peritoneal
nodules. Bowel: Small bowel: Normal. Appendix: Appendectomy.
Colon: Moderate amount of stool. Pelvis: Enlarged prostate. 
Bladder: Normal. Pelvic adenopathy: None
Bones and soft tissue: No focal suspicious osseous lesion.
Impression:
1.  Double duct sign associated with pancreatic head mass
measuring approximately 2.3 cm.  The mass contacts less than 180
degrees of the SMV.  No focal liver lesion or peritoneal
nodularity.
 
Brief Hospital Course:
Mr. ___ is an ___ year old ___ male with a 
PMH of hypertension (not followed by PCP in ___), who presents 
as a transfer from ___ with generalized weakness and jaundice, 
found to have hyperbilirubinemia with imaging concerning for 
pancreatic cancer, now s/p EUS/ERCP with sphincterotomy, metal 
stent placement, and brushings/biopsy of pancreatic mass. 

# Obstructive jaundice:
# Hyperbilirubinemia:
# Pancreatic head mass, likely pancreatic cancer:
Patient presented with weakness, early satiety, and jaundice, 
found to have conjugated hyperbilirubinemia c/f biliary 
obstruction. Imaging concerning for pancreatic head mass, 
suspicious for pancreatic adenocarcinoma. No e/o cholangitis. He 
underwent ERCP/EUS on ___, which revealed a distal CBD 
stricture. Sphincterotomy performed and covered metal stent 
placed; brushings taken of CBD and FNB of pancreatic mass 
completed, pending at discharge. Bilirubin downtrended after 
stenting, with Tbili 8.6 at discharge. Diet was advanced without 
pain or N/V. CEA was mildly elevated at 5.7, CA ___ pending at 
discharge. In discussion with hepatobiliary surgery, CT chest 
w/cont and CT pancreas protocol obtained (for staging and 
surgical planning); CT chest without obvious intrathoracic mets, 
read of CT pancreas pending at discharge. An intake appointment 
at the Pancreas ___ clinic was requested for ___, 
pending at discharge (per ___, nurse coordinator 
for clinic, insurance barriers are being addressed currently; 
she will contact patient with an appointment). In addition, 
patient will establish primary care at ___ with Dr. ___, 
___ for ___, at which time would recommend repeating LFTs. 


# Anemia, thrombocytopenia:
Patient with mild normocytic anemia and borderline 
thrombocytopenia, stable this admission (Hgb ___ and plts 
140s-150s). Baseline unclear. No e/o bleeding or hemolysis. 
Would repeat CBC at PCP ___ with further w/u as outpatient.

# Diabetes mellitus:
A1c 9.4% this admission, c/w new diagnosis of diabetes, possibly 
in setting of pancreatic cancer. He was treated with ISS while 
inpatient and initiated on metformin 500mg BID on discharge. 
Will need PCP ___ for titration.

# Sinus Bradycardia:
Asymptomatic sinus bradycardia to HR ___ without hypotension. 
Home bisoprolol (Detensiel, prescribed in ___ was 
discontinued this admission. 

# Hypertension:
Mildly hypertensive this admission with SBPs 130s-170s with 
sinus bradycardia as above in setting of holding home bisoprolol 
and rilmenidine (an alpha blocker prescribed in ___, not 
available in ___). Home bisoprolol and rilmenidine were 
discontinued this admission. Amlodipine 5mg daily was initiated 
prior to discharge; will require further titration by PCP.

# CAD ppx:
Continued home ASA.

# Pulmonary nodules:
R middle and L lower lobe pulmonary nodules seen measuring up to 
4mm. Will require outpatient ___.

# Contacts/HCP/Surrogate and Communication: ___ (son in law) 
___
# Code Status/Advance Care Planning: Full (presumed)

** TRANSITIONAL **
[ ] ___ CA ___
[ ] ___ pancreas path and CBD brushings
[ ] would repeat LFTs at PCP ___ to ensure downtrending
[ ] would repeat CBC at PCP ___ to ensure stability
[ ] ___ CT pancreas protocol (reads pending at discharge)
[ ] ___ pulmonary nodules of future imaging
[ ] ensure ___ in Pancreas ___ clinic
[ ] assess HTN, newly on amlodipine
[ ] assess response to metformin for new DM
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation (patient unable to provide medication list)
1. Aspirin 81 mg PO DAILY 
2. bisoprolol fumarate 5 mg oral TID 
3. Rilmenidine Study Med Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Pancreatic mass
- Hyperbilirubinemia from biliary obstruction
- Anemia
- HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to the hospital with obstruction of your bile 
ducts, likely due to a pancreatic mass concerning for cancer. 
You underwent a procedure to stent your bile duct and take 
samples of your pancreas. You will need to follow-up in the 
Pancreas clinic for the results of these tests and to determine 
a plan going forward (you should be called with an appointment 
as below).

In addition, you were found to have a new diagnosis of diabetes, 
for which a medication called metformin is being initiated. To 
facilitate your care here in the ___, your home blood 
pressure medications are being discontinued and substituted with 
a medicine called amlodipine. It is important that you follow-up 
with your new primary care doctor here at ___ as below to make 
adjustments to your medications as needed.

With best wishes,
Your ___ team
 
Followup Instructions:
___